US06083961
A mixture of 2-hydroxymethyl-7-methoxybenzofuran (300 mg), sodium cyanoborohydride (796 mg) and zinc iodide (809 mg) in dichloroethane (10 ml) was stirred for 2 hours at ambient temperature and then refluxed overnight. Chloroform and water were added to the reaction mixture, and the separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (n-hexane:ethyl acetate 15:1, v/v) to give 7-methoxy-2-methylbenzofuran (95 mg).

reactant | 2-hydroxymethyl-7-methoxybenzofuran | 300 mg | OCC=1OC2=C(C1)C=CC=C2OC | C10H10O3
reactant | sodium cyanoborohydride | 796 mg | C(#N)[BH3-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
catalyst | zinc iodide | 809 mg | [I-].[Zn+2].[I-]
product | 7-methoxy-2-methylbenzofuran | 95 mg | COC1=CC=CC=2C=C(OC21)C | C10H10O2
